US08193182B2
Synthesis of 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (Compound 1613) (method B)
To a solution of 3-((4-amino-3-(3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1702)(100 mg, 0.2 mmol) in CH2Cl2 (20 mL) at −78° C. under a nitrogen atmosphere, BBr3 (1 mL) was added and the resulting mixture was stirred at −78° C. for 3 h. The mixture was allowed to warm to RT, poured into ice-water (200 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with brine (20 mL), dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (10-50% MeOH/CH2Cl2) to afford the desired product, 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1613)(87 mg, 91% yield) as a white solid.

reactant | 3-((4-amino-3-(3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 0.2 mmol, 100 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=CC=C2)OC)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C2=C(C=CC=C2)C | C30H26N6O2
reactant | BBr3 | 1 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 87 mg, 91% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC(=CC=C2)O)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C2=C(C=CC=C2)C | C29H24N6O2
